US04675328
1 g of 4-hydroxy-4'-nitrobenzophenone was added to 8 ml of DMF containing 110 mg of NaH. The mixture was heated at 40°-50° C. for 30 minutes, then treated with 1.29 g of (R)-3-tosyloxy-1,2-propanediol acetonide and a trace of NaI and heated at 150° C. (oil-bath) under argon for 4 hours. After working-up and purification there were obtained 930 mg (64%) of 4-[[(S)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]-4'-nitrobenzophenone, m.p. 92°-93° C., [α]D20 +5.3° (c 1%, MeOH).

reactant | 4-hydroxy-4'-nitrobenzophenone | 1 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H9NO4
reactant | NaH | [H-].[Na+]
reactant | (R)-3-tosyloxy-1,2-propanediol acetonide | 1.29 g | [CH2-]C(=O)C.S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H](CO)O
reactant | NaI | [Na+].[I-]
solvent | DMF | 8 ml, 110 mg | CN(C)C=O | C3H7NO
product | 4-[[(S)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy]-4'-nitrobenzophenone | 930 mg, 64% | CC1(OC[C@@H](O1)COC1=CC=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1)C | C19H19NO6
